US07888364B2
1 g of 2-(bromomethyl)pyridine hydrobromide was reacted with methyl 4-mercaptobenzoate via Procedure Q to afford methyl 4-(pyridin-2-ylmethylthio)benzoate. 500 mg of methyl 4-(pyridin-2-ylmethylthio)benzoate was reacted via Procedure R to give methyl 4-(pyridin-2-ylmethylsulfonyl)benzoate. 470 mg of methyl 4-(pyridin-2-ylmethylsulfonyl)benzoate was hydrolyzed via Procedure M to give 4-(pyridin-2-ylmethylsulfonyl)benzoic acid. 70 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(pyridin-2-ylmethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(pyridin-2-ylmethylsulfonyl)benzamide. MS (Q1) 464.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 70 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(pyridin-2-ylmethylsulfonyl)benzoic acid | N1=C(C=CC=C1)CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H11NO4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(pyridin-2-ylmethylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)CC1=NC=CC=C1)=O)C1=NC=CC=C1 | C24H18ClN3O3S
